US04483867
Preparation of phthalidyl trans-4-aminomethylcyclohexanecarboxylate hydrochloride (Method A)
A solution of 3-bromophthalide (70.5 g; 0.33 mol) in dimethylformamide (65 ml) was added dropwise to a cold solution of trans-4-(tert.-butyloxycarbonylaminomethyl) cyclohexanecarboxylic acid (77.1 g; 0.3 mol) in triethylamine (36.4 g; 0.36 mol) and dimethylformamide (195 ml). After 18 h the solvent was evaporated, water (1.5 L) and ethyl acetate (1.5 L) were added. The ethyl acetate extract was washed, dried and evaporated to give 122 g. This was dissolved in ethyl acetate (400 ml) and ethyl acetate/hydrochloric acid was added at ice bath temperature. After 2 h at room temperature, the precipitate was filtered, washed and dried to yield 63.8 g. This substance was dissolved in methanol, filtered through charcoal and precipitated with diethyl ether. Yield 54.4 g (56%), m.p. 212° C.

reactant | 3-bromophthalide | 0.33 mol, 70.5 g | BrC1OC(=O)C2=CC=CC=C12 | C8H5BrO2
reactant | trans-4-(tert.-butyloxycarbonylaminomethyl) cyclohexanecarboxylic acid | 0.3 mol, 77.1 g | C(C)(C)(C)OC(=O)NC[C@@H]1CC[C@H](CC1)C(=O)O | C13H23NO4
reactant | triethylamine | 0.36 mol, 36.4 g | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate hydrochloric acid | C(C)(=O)OCC.Cl
solvent | dimethylformamide | 65 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 195 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
product | phthalidyl trans-4-aminomethylcyclohexanecarboxylate hydrochloride | Cl.NC[C@@H]1CC[C@H](CC1)C(=O)OC1OC(=O)C2=CC=CC=C12 | InChI=1S/C16H19NO4.ClH/c17-9-10-5-7-11(8-6-10)14(18)20-16-13-4-2-1-3-12(13)15(19)21-16;/h1-4,10-11,16H,5-9,17H2;1H/t10-,11-,16?;
